US07772378B2
(10) 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1H-pyrazol-4-yl-ethynyl)-benzyl]-benzene
The compound was obtained starting from 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene and 4-iodo-1H-pyrazole.

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#C | C21H21ClO6
reactant | 4-iodo-1H-pyrazole | IC=1C=NNC1 | C3H3IN2
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1H-pyrazol-4-yl-ethynyl)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#CC=1C=NNC1 | C24H23ClN2O6
